US06831193B2
N-[(4′-fluoro[1,1′-biphenyl]-2-yl)methyl]-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine
4′-Fluoro[1,1′-biphenyl]-2-carbaldehyde and (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine were processed as described in Example 1A to provide the title compound.

reactant | 4′-Fluoro[1,1′-biphenyl]-2-carbaldehyde | FC1=CC=C(C=C1)C=1C(=CC=CC1)C=O | C13H9FO
reactant | (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
product | N-[(4′-fluoro[1,1′-biphenyl]-2-yl)methyl]-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine | FC1=CC=C(C=C1)C1=C(C=CC=C1)CN[C@H]1CCCC2=CC=CC=C12 | C23H22FN
